US09233983B2
Step-I: tert-butyl 4-bromo-2,6-difluoro-benzoate (VII-5-IV)
To a solution of diisopropylamine (17.9 mL, 0.12 mol) in anhydrous THF at −78° C. was added n-BuLi (45.5 mL, 0.11 mol, 2.5 M in hexane) dropwise, over period of 15 min and the resulting solution was stirred at −78° C. for 30 mins. To this was added 1-bromo-3,5-difluoro benzene (20.0 g, 0.10 mol) in THF (30 mL) dropwise and it was stirred for 1 h. Finally, Boc-anhydride (26.0 mL, 0.11 mol) was added to it and the reaction mixture was slowly allowed to come to room temperature over a period of 2 h. After completion of the reaction, it was diluted with water (100 mL) and extraction was carried out using diethyl ether (300×2). The combine organic layers were washed with water (250 mL), brine (250 mL) and dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to provide crude VII-5-IV (26 g) as a brown liquid, which was used for next step with out any purification. 1H NMR (DMSO-d6, 400 MHz) δ 1.42 (s, 9H), 7.63 (d, J=8.0 Hz, 2H).

reactant | diisopropylamine | 0.12 mol, 17.9 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 0.11 mol, 2.5 M, 45.5 mL | [Li]CCCC
reactant | 1-bromo-3,5-difluoro benzene | 0.10 mol, 20.0 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | 100 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-bromo-2,6-difluoro-benzoate | BrC1=CC(=C(C(=O)OC(C)(C)C)C(=C1)F)F | C11H11BrF2O2
